US05180723
A mixture of 2-methyloctan-4-one (6.3 g, 44 mmol), sodium cyanoborohydride (3.0 g, 48 mmol), ammonium acetate (33.9 g, 0.44 mol) and 3 Å molecular sieves in dry methanol (50 ml) was stirred overnight at room temperature under argon. The solvent was removed under reduced pressure and the residue taken up in chloroform (100 ml), filtered through a pad of celite and concentrated to give 2-methyl-4-aminooctane (1.6 g, 25%) as a yellow oil.

reactant | 2-methyloctan-4-one | 44 mmol, 6.3 g | CC(C)CC(CCCC)=O | C9H18O
reactant | sodium cyanoborohydride | 48 mmol, 3.0 g | C(#N)[BH3-].[Na+]
reactant | ammonium acetate | 0.44 mol, 33.9 g | C(C)(=O)[O-].[NH4+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-methyl-4-aminooctane | 1.6 g, 25% | CC(C)CC(CCCC)N | C9H21N
